US07777047B2
2-(benzylthio)-3,3-dimethoxypropan-1-amine
To a suspension of lithium aluminum hydride (13.0 g) in tetrahydrofuran (60 ml) was added dropwise a solution (76 ml) of ({[2,2-dimethoxy-1-(nitromethyl)ethyl]thio}methyl)benzene (18.6 g) in tetrahydrofuran at 0° C. The reaction mixture was allowed to warm to room temperature, and stirred at room temperature for 1 hr. Water and 2N aqueous sodium hydroxide solution were added to the reaction solution, and the mixture was diluted with ethyl acetate. The mixture was filtrated through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate:hexane=30:70-100:0) to give the title compound (12.6 g, yield 76%) as a yellow oil.

reactant | lithium aluminum hydride | 13.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ({[2,2-dimethoxy-1-(nitromethyl)ethyl]thio}methyl)benzene | 76 ml, 18.6 g | COC(C(C[N+](=O)[O-])SCC1=CC=CC=C1)OC | C12H17NO4S
reactant | Water | O | H2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(benzylthio)-3,3-dimethoxypropan-1-amine | 12.6 g, yield 76% | C(C1=CC=CC=C1)SC(CN)C(OC)OC | C12H19NO2S
